US04851535
In 58 ml of N,N-dimethylformamide was dissolved 5.80 g of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-triisopropylbenzenesulfonyloxy)nicotinoyl]acetate, and 1.24 g of thiophenol and 1.23 g of triethylamine were added thereto, after which the resulting mixture was subjected to reaction at room temperature for 4 hours. Subsequently, to the reaction mixture were added 400 ml of ethyl acetate and 200 ml of water, and the pH thereof was adjusted to 2.0 with 2N hydrochloric acid. The organic layer was separated, washed successively with 200 ml of water and 200 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 50 ml of n-hexane, after which crystals were collected by filtration to obtain 3.99 g (yield 95.6%) of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-phenylthionicotinoyl]acetate. The physical properties of this compound were identical with those of the compound obtained in Example 19.

reactant | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-triisopropylbenzenesulfonyloxy)nicotinoyl]acetate | 5.80 g | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)OS(=O)(=O)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)F | C31H35F3N2O6S
reactant | thiophenol | 1.24 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 1.23 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | n-hexane | 50 ml | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 58 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-phenylthionicotinoyl]acetate | 3.99 g, yield 95.6% | FC1=C(C=CC(=C1)F)NC1=C(C(=S)CC(=O)OCC)C=C(C(=N1)C1=CC=CC=C1)F | C22H17F3N2O2S
